US06521666B1
To a solution of N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine (0.1 g) in THF (5 mL) at 0° C. under N2 was added oxalyl chloride (0.055 mL) followed by a drop of DMF. The solution was stirred at 0° C. for 2 h followed by stirring at room temperature for 2 h. THF was evaporated and fresh THF (5 mL) was added and the solution was evaporated again. This process was repeated one more time and the residue was dried under vacuum to yield N(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanyl chloride.

reactant | N-(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanine | 0.1 g | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2OC)OC)C(=O)O)C(=CC=C1)Cl | C24H21Cl2NO5
reactant | oxalyl chloride | 0.055 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N(2,6-dichlorobenzoyl)-4-(2,6-dimethoxyphenyl)-L-phenylalanyl chloride | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)C2=C(C=CC=C2OC)OC)C(=O)Cl)C(=CC=C1)Cl | C24H20Cl3NO4
